US09382243B2
3-((4-bromophenyl)sulfonyl)oxetane
4-bromothiophenol (1.15 g, 6.08 mmol), oxetan-3-yl 4-methylbenzenesulfonate (1.66 g, 7.3 mmol), and cesium carbonate (3.96 g, 12.16 mmol) were suspended in DMSO (6 ml). The reaction mixture was stirred for 2 days at rt, then diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2); and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 5% to 75% EtOAc:Hexane. The major peak was isolated, concentrated and dissolved in MeOH (10 mL), THF (10 mL) and water (5 mL). Oxone (4.05 g, 6.59 mmol) was added and the reaction was stirred overnight at rt, and then diluted with water and EtOAc. The EtOAc phase was washed with water, Na2S2O3, and brine, and then dried over Na2SO4, filtered and concentrated to provide the desired product. 1H NMR δ 7.80-7.75 (m, 4H), 4.96 (t, 2H), 4.82 (t, 2H), 4.46 (pentet, 1H).

reactant | 4-bromothiophenol | 6.08 mmol, 1.15 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | oxetan-3-yl 4-methylbenzenesulfonate | 7.3 mmol, 1.66 g | CC1=CC=C(C=C1)S(=O)(=O)OC1COC1 | C10H12O4S
reactant | cesium carbonate | 12.16 mmol, 3.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Oxone | 6.59 mmol, 4.05 g | OOS(=O)[O-].[K+]
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-((4-bromophenyl)sulfonyl)oxetane | BrC1=CC=C(C=C1)S(=O)(=O)C1COC1 | C9H9BrO3S
